US06753334B2
To a 250 ml flask under a nitrogen atmosphere, water (20 ml) and concentrated HCl (60 ml, 0.61 moles) were charged and cooled down to −2 to 0° C. 5-Aminoquinoline (10 g, 0.069 moles) was added in one portion as a solid. An increase in temperature of 10° C. was observed. The orange-yellow suspension was re-cooled to −2 to 0° C. and sodium nitrite (5.8 g, 0.084 moles) dissolved in water (10 ml) was added dropwise to the acidic solution through an addition funnel over a period of 20 minutes at −2 to 0° C. The resulting mixture (dark-brown solution) was stirred for 1 hour at −2 to 0° C. L-Ascorbic acid (14.3 g, 0.081 moles) was then added in portions as a solid over a period of 20 minutes at −2 to 0° C. The reaction was allowed to come to room temperature (18-20° C.) over a period of 30 minutes, then heated at 50° C. and stirred for 30 hours at this temperature. The resultant slurry was cooled to room temperature (18-20° C.), stirred for 1 hour at this temperature, filtered and washed with propan-2-ol (40 ml). The product was dried to constant weight in an air tray drier at 40° C. to afford 11.75 g of 5-hydrazinoquinoline dihydrochloride as a green solid (HPLC purity calculated as area percent: 98%, with 1.6% of oxalic acid intermediate; 71.5% molar yield).

reactant | HCl | 0.61 moles, 60 ml | Cl | ClH
reactant | 5-Aminoquinoline | 0.069 moles, 10 g | NC1=C2C=CC=NC2=CC=C1 | C9H8N2
reactant | sodium nitrite | 0.084 moles, 5.8 g | N(=O)[O-].[Na+]
reactant | L-Ascorbic acid | 0.081 moles, 14.3 g | O=C1C(O)=C(O)[C@H](O1)[C@@H](O)CO | C6H8O6
reactant | oxalic acid | C(C(=O)O)(=O)O | C2H2O4
solvent | water | 10 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | 5-hydrazinoquinoline dihydrochloride | 11.75 g | Cl.Cl.N(N)C1=C2C=CC=NC2=CC=C1 | InChI=1S/C9H9N3.2ClH/c10-12-9-5-1-4-8-7(9)3-2-6-11-8;;/h1-6,12H,10H2;2*1H
